US06492522B1
Sodium carbonate (1,550 g) and benzyl chloride (582.3 g) were added to the solution of the acetic acid salt of dimethyl (4-piperidylmethyl)malonate [XXIXa] from the previous step. The obtained slurry was stirred for 12 hours at 60-65° C. and evaporated under reduced pressure. Water was added to the residue and the mixture was extracted with dichloromethane. The organic layer was washed with water, dried over sodium sulfate, passed through short silica gel column and evaporated under reduced pressure. The residue was washed with hexane and dried under reduced pressure to give dimethyl (N-benzyl-4-piperidylmethyl)malonate [XXIIa]. 1H NMR (CDCl3) δ1.10-1.37 (m, 3H), 1.50-1.75 (m, 2H), 1.75-2.00 (m, 4H), 2.83 (br. d, 2H, J=12 Hz), 3.44 (s, 2H), 3.70 (s, 6H), 7.26 (m, 5H).

reactant | Sodium carbonate | 1,550 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl chloride | 582.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | dimethyl (4-piperidylmethyl)malonate | N1CCC(CC1)CC(C(=O)OC)C(=O)OC | C11H19NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | dimethyl (N-benzyl-4-piperidylmethyl)malonate | C(C1=CC=CC=C1)N1CCC(CC1)CC(C(=O)OC)C(=O)OC | C18H25NO4
